US09120749B2
tert-Butyl trans-4-[6-(6-cyanopyridin-3-yl)-3-isobutyrylquinolin-4-ylamino]cyclohexylcarbamate
Following general procedure D, tert-butyl trans-4-(6-bromo-3-isobutyrylquinolin-4-ylamino)cyclohexylcarbamate (47 mg, 0.093 mmol) was reacted with 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)picolinonitrile (26 mg, 0.200 mmol) to afford the crude product (47 mg) as a yellow solid: ESI MS m/z 514 [C30H35N5O3+H]+.

reactant | tert-butyl trans-4-(6-bromo-3-isobutyrylquinolin-4-ylamino)cyclohexylcarbamate | 0.093 mmol, 47 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(C(C)C)=O)N[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C24H32BrN3O3
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)picolinonitrile | 0.200 mmol, 26 mg | CC1(OB(OC1(C)C)C=1C=CC(=NC1)C#N)C | C12H15BN2O2
product | tert-Butyl trans-4-[6-(6-cyanopyridin-3-yl)-3-isobutyrylquinolin-4-ylamino]cyclohexylcarbamate | 47 mg | C(#N)C1=CC=C(C=N1)C=1C=C2C(=C(C=NC2=CC1)C(C(C)C)=O)N[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C30H35N5O3
